US05714479
To a THF solution(30 ml) of pyrimidine-4,5-dicarboxylic acid diethyl ester(1.46 g,6.52 mmol) which was prepared by the method described in the literature(Chem. Pharm. Bull.,1972,20,1513-1521) was added a THF solution of 4-methoxyphenyl magnesium bromide (1.25M,5.47 ml) dropwise at -78° C. The reaction solution was stirred at -78° C. for 30 min, treated with 1N HCl and extracted with AcOEt. The organic layer was washed with brine and dried over MgSO4. After removal of the solvent under reduced pressure the residue was purified by silica gel column chromatography(E. Merck Kieselgel 60/chloroform) to give 4-(4-methoxyphenylcarbonyl)pyrimidine-5-carboxylic acid ethyl ester(1.57 g) as a pale yellow oil.

reactant | pyrimidine-4,5-dicarboxylic acid diethyl ester | 6.52 mmol, 1.46 g | C(C)OC(=O)C1=NC=NC=C1C(=O)OCC | C10H12N2O4
reactant | 4-methoxyphenyl magnesium bromide | 1.25M, 5.47 ml | COC1=CC=C(C=C1)[Mg]Br
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(4-methoxyphenylcarbonyl)pyrimidine-5-carboxylic acid ethyl ester | 1.57 g | C(C)OC(=O)C=1C(=NC=NC1)C(=O)C1=CC=C(C=C1)OC | C15H14N2O4
